Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Abnormal labs  

 
Major Surgical or Invasive Procedure:
trans-esophageal echocardiogram

 
History of Present Illness:
___ year old female with CAD s/p CABG, poorly controlled IDDM, 
presenting for evaluation of elevated ESR and WBC. The patient 
has a complicated cardiac history (see below) and was found to 
have a new holosystolic murmur on an admission for 
gastroenteritis in early ___. Echocardiogram at that time 
did not reveal any concerning lesions, and the patient was 
hydrated and discharged. She was re-admitted ___ for CHF 
exacerbation and was successfully diuresed.  
.  
During the first ___ admission, she was found to have a UTI and 
was treated with 3 days of Bactrim. She continued to have low 
grade fevers and her PCP gave her an additional 7 days of 
Bactrim treatment. During the last hospitalization, her low 
grade fevers persisted and she was treated with a 7 day course 
of Ciprofloxacin after UCx demonstrated coag neg staph--last 
dose yesterday. Her fevers resolved early during the cipro 
course and she has been afebrile since.  
.  
Her PCP wanted repeat blood work for evaluation after treatment 
of the UTI. Her WBC was elevated, yet felt well. Her 
cardiologist was contacted and the patient was admitted for TEE 
to rule out endocarditis.  
.  
In the ED, initial vitals were 98.3, 137//63, 70, 16, 98% RA. 
Blood cultures taken, but given lack of fever and no clear 
diagnosis, no antibiotics were started. She was admitted for 
TEE.  

 
Past Medical History:
 
- DM2 (___) c/b neuropathy/retinopathy, HbA1C 14.5 in ___,  
- hypertension  
- dyslipidemia  
- CAD - s/p CABG ___ (___->LAD, SVG-PDA, SVG->OM1, SVG->OM2, 
SVG-  
>D1), c/b sternal wound infection, with all saphenous vein 
grafts  
known to be occluded and multiple PCI/stents to the LCx and OM1  

with recurrent occlusion and eventual decision for medical  
management (good collateralization)  
-Repeat catheterization on ___ showing all vein grafts  
occluded and 80% mid circumflex stenosis, and 70% OM1 stenosis  
status post 2.5-mm stents;  
-Catheterization on ___: done for recurrent angina,  
occluded proximal OM with in-stent restenosis, status post PTCA  

and brachytherapy.  
-Recurrent symptoms on ___ showing 99% ISR of OM1 status  
post Cypher DES, and 80% ISR of mid circumflex status post CES,  

-Catheterization ___ for recurrent symptoms showing 70%  
diffuse lesion distal to the stent in the proximal OM, status  
post 2.5 x 18 mm drug-eluting stent; most recent cardiac  
catheterization as described below.  
- left great toe ulcer since ___.  
- depression.  

 
Social History:
___
Family History:
family history of premature coronary artery disease (father, MI 
___, no h/o sudden death
 
Physical Exam:
T 98.0 BP 120/76 HR 78 rr 16
Gen: obese female asleep, easily woken, but falls asleep during 
inteview. Oriented x3. Mood, affect appropriate.  
HEENT: OP clear  
Neck: Unable to visualize JVP  
CV: RRR, III/VI SM at ___, nonradiating  
Chest: CTAB  
Abd: Soft, NTND. No HSM or tenderness. obese  
Ext: No c/c/e. No femoral bruits. No evidence of distal emboli  
 
 
Pertinent Results:
___ 03:45PM   ___ PTT-29.2 ___
___ 09:56AM   ___
___ 04:45AM URINE  HOURS-RANDOM
___ 04:45AM URINE  UHOLD-HOLD
___ 04:45AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:45AM URINE  RBC-<1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 04:45AM URINE  MUCOUS-RARE
___ 01:33AM   LACTATE-0.8
___ 12:25AM   estGFR-Using this
___ 12:25AM   IRON-30
___ 12:25AM   calTIBC-376 FERRITIN-37 TRF-289
___ 12:25AM   WBC-13.5* RBC-3.87* HGB-9.7* HCT-30.5* 
MCV-79* MCH-25.1* MCHC-31.8 RDW-14.6
___ 12:25AM   NEUTS-71.5* BANDS-0 ___ MONOS-3.7 
EOS-2.2 BASOS-0.4
___ 12:25AM   HYPOCHROM-2+ ANISOCYT-OCCASIONAL 
POIKILOCY-OCCASIONAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL OVALOCYT-OCCASIONAL
___ 12:25AM   PLT COUNT-638*
___ 12:25AM   SED RATE-150*
 
Brief Hospital Course:
Hospital Course: ___ yo female with CAD s/p CABG, poorly 
controlled DM presenting for further evaluation of leukocytosis. 
 
.  
1. Leukocytosis: The patient has a low grade leukocytosis and 
elevated ESR in the setting of new murmur. The patient was 
admitted for a TEE which was performed and was negative. She 
will follow up with her PCP, ___ (___) 
for further evaluation of her leukocytosis. Dr. ___ was 
contacted and told the results of the patient's TEE and has 
scheduled follow-up for ___.
.  
2. CAD/CHF: The patient was continued on her outpatient meds, 
including aspirin, plavix, statin, beta blocker, ace, lasix. 
.  
3. DM: The patient was continued on her home regimen of glargine 
45 u qhs and SSI. She was encouraged to follow-up with ___ on 
discharge.
.  
4. Hyperkalemia: The patient was taken off her potassium 
repletion. She was continued on her home lisinopril and will 
have her lytes followed up by her PCP.
.  
5. Hypertension: The patient was continued on her outpatient 
regimen.  
.  
6. Hyperlipidemia: The patient was continued on her zetia and 
statin.  
.  
7. FEN: The patient was NPO and then placed on a cardiac diet.
.  
9. PPx: The patient was continued on heparin sc. 
.  
10. Code: FULL CODE.  

 
Medications on Admission:
 
1. Norvasc 10 mg a day.  
2. Aspirin 325 mg once daily.  
3. Plavix 75 mg once daily.  
4. Zetia 10 mg once daily.  
5. Lasix 40 mg once daily.  
6. Neurontin 300 mg three times a day.  
7. Imdur 30 mg daily.  
8. Zestril 20 mg daily.  
9. Lopressor 50 mg b.i.d.  
10. Sublingual nitroglycerin.  
11. Potassium 20 mEq.  
12. Zoloft 50 mg daily.  

 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
5. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

8. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
9. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
10. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
11. Insulin Regular Human 300 unit/3 mL Insulin Pen Sig: PER 
HOME SLIDING SCALE PER HOME SLIDING SCALE Subcutaneous four 
times a day: PER HOME SLIDING SCALE.  
12. Insulin Glargine 300 unit/3 mL Insulin Pen Sig: ___ 
(45) units Subcutaneous at bedtime.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
leukocytosis

 
Discharge Condition:
Stable. The patient is afebrile and asymptomatic.

 
Discharge Instructions:
Take all medications as prescribed.

Follow-up with your primary care physician as below.

Please call your doctor or return to the emergency room if you 
experience:
--fever or chills
--chest pain
--shortness of breath
--abdominal pain
--joint pain
--any other symptom that concerns you
 
Followup Instructions:
___